US08476301B2
(4-Methoxyphenyl)methyl (2E)-but-2-enoate
Crotonic acid (17.2 g, 200 mmol) was dissolved in N,N-dimethylformamide (100 ml) with cooling in an ice bath under nitrogen, and powdered potassium carbonate (15.2 g, 110 mmol) was added. The mixture was stirred for 30 minutes, and 4-methoxybenzyl chloride (29.8 g, 190 mmol) was then added dropwise over 15 minutes. The reaction mixture was stirred at mom temperature for four hours and at 45° C. for 14 hours. Ethyl acetate (500 ml) and water (200 ml) were added to the reaction liquid. The separated organic layer was washed with water (100 ml×2) and brine (100 ml). The aqueous layer was extracted with ethyl acetate (100 ml). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a crude product of the title compound (40.51 g, yield: 98.2%).

reactant | Crotonic acid | 200 mmol, 17.2 g | C(\C=C\C)(=O)O | C4H6O2
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 190 mmol, 29.8 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | (4-Methoxyphenyl)methyl (2E)-but-2-enoate | 40.51 g, yield: 98.2% | C(\C=C\C)(=O)OCC1=CC=C(C=C1)OC | C12H14O3
